US20010056123A1
Step 1 Synthesis of ethyl 1-(4-pyridyl)-4-piperidinecarboxylate:
4.0 g (26.6 mmol) of 4-chloropyridine hydrochloride, 4.2 g (26.6 mmol) of ethyl piperidine-4-carboxylate and 7.4 ml (53.2 mmol) of triethylamine were stirred in 100 ml of xylene at 130° C. for 24 hours. After the treatment with dichloromethane as the extraction solvent in an ordinary manner, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | 4-chloropyridine hydrochloride | 26.6 mmol, 4.0 g | Cl.ClC1=CC=NC=C1
reactant | ethyl piperidine-4-carboxylate | 26.6 mmol, 4.2 g | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | triethylamine | 53.2 mmol, 7.4 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 1-(4-pyridyl)-4-piperidinecarboxylate | N1=CC=C(C=C1)N1CCC(CC1)C(=O)OCC | C13H18N2O2
